US09233098B2
4. Preparation of ethyl 2-[3-(4-aminobenzyl)-2-ethyl-1H-indol-1-yl]acetate
Into a dry reaction vessel, ethyl 2-[2-ethyl-3-(4-nitrobenzyl)-1H-indol-1-yl]acetate (350 mg, 0.96 mmol) was added, and dissolved in 10 mL methanol. 10% Pd/C 50 mg was added, purged with dry hydrogen, and reacted for 1 h. After completion of the reaction, it was filtered, and the filter cake was washed with methanol. The filtrate was rotate evaporated to dryness to obtain a white solid 288 mg, at a yield of 89.6%.

reactant | ethyl 2-[2-ethyl-3-(4-nitrobenzyl)-1H-indol-1-yl]acetate | 0.96 mmol, 350 mg | C(C)C=1N(C2=CC=CC=C2C1CC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)OCC | C21H22N2O4
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | ethyl 2-[3-(4-aminobenzyl)-2-ethyl-1H-indol-1-yl]acetate | 288 mg, yield of 89.6% | NC1=CC=C(CC2=C(N(C3=CC=CC=C23)CC(=O)OCC)CC)C=C1 | C21H24N2O2
